US06838454B2
Preparation of 3-(3,3-Dibenzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-terahydro-1H-azepine-2-carboxylic acid Step A.
The reaction is performed under an Argon blanket. 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester (204 mg, 0.5 mmol) is dissolved in 10 ml dry Dioxane. Tripropylamine (94 μl, 0.5 mmol) is added and then Diphenyl phosphoryl azide (DPPA). The reaction is heated to 75° C. for 5 h. After cooling to room temperature, Dibenzylamine (190.6 μl, 1 mmol) is added via syringe. The reaction is heated to 70° C. and stirred over night. Evaporation of the solvents and flash-chromatography, Hexane/Ethyl acetate (1:1) afforded the product: Cal. 606.8 found (M)+ 606.2.

reactant | 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 2-tert-butyl ester | 0.5 mmol, 204 mg | C(C)(C)(C)OC(=O)C1N(CC=CCC1C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC | C19H25NO7S
reactant | Tripropylamine | 0.5 mmol, 94 μl | C(CC)N(CCC)CCC | C9H21N
reactant | Diphenyl phosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Dibenzylamine | 1 mmol, 190.6 μl | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | Dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(3,3-Dibenzylureido)-1-(4-methoxy-benzenesulfonyl)-2,3,4,7-terahydro-1H-azepine-2-carboxylic acid | C(C1=CC=CC=C1)N(C(NC1C(N(CC=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(=O)O)=O)CC1=CC=CC=C1 | C29H31N3O6S
